US08119636B2
2-bromo-7-(2-tert-butyl-[1,3]dioxolan-2-yl)-5H-pyrrolo[2,3-b]pyrazine (0.2 g, 0.61 mmol) was dissolved in 6 ml tetrahydrofuran. Sodium hydride (49 mg, 1.22 mmol, 60% mineral oil dispersion) was added and the mixture stirred for 15 min. The mixture was cooled in a dry ice/acetone bath and butyl lithium (0.37 ml, 0.92 mmol, 2.5M hexanes solution) was added slowly. After 5 min, acetaldehyde (85 ul, 1.52 mmol) was added. After a further 1 hr, ammonium chloride solution was added, then water and ethyl acetate. The layers were separated and the aqueous layer was extracted once more with ethyl acetate. The combined ethyl acetate layers were washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration and evaporation the residue was purified by silica gel chromatography(methanol/dichloromethane) to give 109 mg (61%) of 1-[7-(2-tert-butyl-[1,3]dioxolan-2-yl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-ethanol. (M+H)+=292.

reactant | 2-bromo-7-(2-tert-butyl-[1,3]dioxolan-2-yl)-5H-pyrrolo[2,3-b]pyrazine | 0.61 mmol, 0.2 g | BrC=1N=C2C(=NC1)NC=C2C2(OCCO2)C(C)(C)C | C13H16BrN3O2
reactant | Sodium hydride | 1.22 mmol, 49 mg | [H-].[Na+]
reactant | butyl lithium | 0.92 mmol, 2.5M, 0.37 ml | C(CCC)[Li]
reactant | acetaldehyde | 1.52 mmol, 85 ul | C(C)=O | C2H4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[7-(2-tert-butyl-[1,3]dioxolan-2-yl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-ethanol | 109 mg, 61% | C(C)(C)(C)C1(OCCO1)C1=CNC2=NC=C(N=C21)C(C)O | C15H21N3O3
